US08426411B2
To a solution of (R)-8-(piperidin-3-yl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine hydrobromide and (S)-8-(piperidin-3-yl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine hydrobromide [er=80:20](0.30 g, 0.93 mmol), DIEA (0.52 mL, 3.0 mmol) and 3,3-difluorocyclobutanecarboxylic acid (0.35 g, 3.1 mmol, Waterstone) in DMF (4 mL) was added EDC•HCl (0.21 g, 1.1 mmol). The reaction was stirred at about 25° C. for about 4 h. The reaction was partitioned with aqueous Na2CO3 (2 M, 25 mL) and DCM (25 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered, and concd in vacuo. The resulting residue was purified on silica gel (12 g) using 0-5% MeOH in DCM followed by purification using General Procedure AA (Table 2, Method 23, Rt=16.4 min, or =positive) to give (R)-(3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)piperidin-1-yl)(3,3-difluorocyclobutyl)-methanone (0.10 g, 30%): LC/MS (Table 1, Method b) Rt=1.85 min; MS m/z: 360 (M+H)+.

reactant | (R)-8-(piperidin-3-yl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine hydrobromide | Br.N1C[C@@H](CCC1)C1=CN=C2N1C1=C(N=C2)NC=C1
reactant | (S)-8-(piperidin-3-yl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine hydrobromide | 0.93 mmol, 0.30 g | Br.N1C[C@H](CCC1)C1=CN=C2N1C1=C(N=C2)NC=C1
reactant | DIEA | 3.0 mmol, 0.52 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,3-difluorocyclobutanecarboxylic acid | 3.1 mmol, 0.35 g | FC1(CC(C1)C(=O)O)F | C5H6F2O2
reactant | EDC•HCl | 1.1 mmol, 0.21 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (R)-(3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)piperidin-1-yl)(3,3-difluorocyclobutyl)-methanone | 0.10 g, 30% | C1=CNC=2N=CC=3N(C21)C(=CN3)[C@H]3CN(CCC3)C(=O)C3CC(C3)(F)F | C18H19F2N5O
